US07262315B2
In a 5 mL flask opened to the air, to a clear solution of N-benzylidenebenzene sulfonamide (100 mg, 0.408 mmol) in benzene (0.4 mL) was added dimethylphenylsilane (125 μL, 0.816 mmol). The flask was placed in a 60° C. bath and iodo[bis(triphenylphosphine)] oxorhenium(V) (18 mg, 0.021 mmol) was added. The resulting brown solution was heated at 60° C. for 2 hours. To the reaction mixture was added methanol (0.4 mL) followed by trifluoroacetic acid (35 μL), and heating continued for an additional 2 h. The crude reaction mixture was directly applied to a SiO2 column and chromatographed eluting with 1:1 hexanes:diethyl ether to afford N-phenylsulfonylbenzylamine (87 mg, 86% yield) as a slightly yellow solid.

reactant | N-benzylidenebenzene sulfonamide | 0.408 mmol, 100 mg | C(C1=CC=CC=C1)=NS(=O)(=O)C1=CC=CC=C1 | C13H11NO2S
reactant | dimethylphenylsilane | 0.816 mmol, 125 μL | C[SiH](C1=CC=CC=C1)C | C8H12Si
reactant | methanol | 0.4 mL | CO | CH4O
reactant | trifluoroacetic acid | 35 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | benzene | 0.4 mL | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-phenylsulfonylbenzylamine | 87 mg, 86% yield | C1(=CC=CC=C1)S(=O)(=O)NCC1=CC=CC=C1 | C13H13NO2S
